US08124606B2
Compound 10D: N-ethyl-4-(piperazin-1-yl)benzamide:
Using N-ethyl-4-fluorobenzamide in the general procedure for nucleophilic aromatic substitution reactions with piperazine, the title compound was obtained (77% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.10 (t, J=7.07 Hz, 3H) 2.25 (br. s., 1H) 2.76-2.86 (m, 4H) 3.09-3.18 (m, 4H) 3.21-3.28 (m, 2H) 6.90 (m, J=8.84 Hz, 2H) 7.67-7.75 (m, 2H) 8.11 (t, J=5.31 Hz, 1H). ESI-MS: m/z 234.2 (M+H)+. mp=131.3-134.4° C.

reactant | N-ethyl-4-fluorobenzamide | C(C)NC(C1=CC=C(C=C1)F)=O | C9H10FNO
reactant | piperazine | N1CCNCC1 | C4H10N2
product | N-ethyl-4-(piperazin-1-yl)benzamide | 77% yield | C(C)NC(C1=CC=C(C=C1)N1CCNCC1)=O | C13H19N3O
